US06004478
Preparation of 4'-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)-3-fluoro-4-(2,2,2-trifluoroethoxy)biphenyl
The general procedure of Example 56 was repeated using (4-pentyl-4-phenyl-4-silacyclohexyl)methyltriphenylphosphonium iodide, 4'-formyl-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl and 1-bromo-2, 2,2-trifluoroethane, thereby obtaining the intended compound.

reactant | (4-pentyl-4-phenyl-4-silacyclohexyl)methyltriphenylphosphonium iodide | [I-].C(CCCC)[Si]1(CCC(CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4'-formyl-3-fluoro-4-(t-butyldimethylsiloxy)biphenyl | C(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)F | C19H23FO2Si
reactant | 1-bromo-2, 2,2-trifluoroethane | BrCC(F)(F)F | C2H2BrF3
product | 4'-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)-3-fluoro-4-(2,2,2-trifluoroethoxy)biphenyl | C(CCCC)[Si@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC(=C(C=C1)OCC(F)(F)F)F | C26H34F4OSi
